US05210092
A solution of 2-butyrylamino-4-methyl-3-nitropyridine (7.0 g) and iron powder (17.5 g) in a mixture of acetic acid (14 ml) and ethanol (100 ml) was stirred at 90° C. for 3 hours under nitrogen atmosphere. After being cooled to room temperature, the reaction mixture was filtered through Celite and the filtrate was evaporated in vacuo. Ethyl acetate and saturated aqueous sodium hydrogencarbonate were added to the residue until pH 7~8 and the resulting suspension was filtered through Celite. The organic layer of the filtrate was separated, washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified with silica gel column chromatography (eluent: ethyl acetate) to give 7-methyl-2-propyl-3H-imidazo[4,5-b]pyridine (3.6 g).

reactant | 2-butyrylamino-4-methyl-3-nitropyridine | 7.0 g | C(CCC)(=O)NC1=NC=CC(=C1[N+](=O)[O-])C | C10H13N3O3
solvent | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | iron | 17.5 g | [Fe] | Fe
product | 7-methyl-2-propyl-3H-imidazo[4,5-b]pyridine | 3.6 g | CC1=C2C(=NC=C1)NC(=N2)CCC | C10H13N3
